US07074819B2
To a stirred solution of ethyl (E)-6,6,7,7,7-pentafluoro-2-{9-[(3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman-4-yl]nonyl}-2-h eptenoate (116 mg, 0.16 mmol) in ethyl alcohol (5 ml), 5 N aqueous potassium hydroxide solution was added and the mixture was stirred under N2 atmosphere at 70° C. for 5 h. After cooling to room temperature the reaction mixture was acidified by 6 N aqueous hydrochloric acid and extracted with methylene chloride. Extracts were dried over anhydrous sodium sulfate and concentrated in vacuum to give crude (E)-6,6,7,7,7-pentafluoro-2-{9-[(3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman-4-yl]nonyl}-2-heptenoic acid as a colorless oil. yield: 111 mg (quant.). The sample was used in the following step without further purification.

reactant | ethyl (E)-6,6,7,7,7-pentafluoro-2-{9-[(3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman-4-yl]nonyl}-2-h eptenoate | 0.16 mmol, 116 mg | FC(CC/C=C(/C(=O)OCC)\CCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC)(C(F)(F)F)F | C38H51F5O7
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | ethyl alcohol | 5 ml | C(C)O | C2H6O
solvent | potassium hydroxide | 5 N | [OH-].[K+]
product | (E)-6,6,7,7,7-pentafluoro-2-{9-[(3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman-4-yl]nonyl}-2-heptenoic acid | FC(CC/C=C(/C(=O)O)\CCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC)(C(F)(F)F)F | C36H47F5O7
